US07176242B2
4-(1,3-Oxazol-2-yl)benzoic acid
To a stirred solution of methyl 4-(1,3-oxazol-2-yl)benzoate (690 mg, 3.4 mmol) in a mixture of 2:1:1 tetrahydrofuran/methanol/water (20 mL) is added lithium hydroxide (430 mg, 3 mmol). The reaction mixture is stirred at room temperature for 2 h. The solvent is removed under reduced pressure and the residue is partitioned between diethyl ether and water. The aqueous layer is acidified to pH 1 with 1 N hydrochloric acid and a precipitate is observed. The solid is collected by filtration to afford the title compound. 1H NMR (300 MHz, CD3OD) δ 8.14 (s, 4H), 8.05 (s, 1H), 7.36 (s, 1H)

reactant | methyl 4-(1,3-oxazol-2-yl)benzoate | 3.4 mmol, 690 mg | O1C(=NC=C1)C1=CC=C(C(=O)OC)C=C1 | C11H9NO3
reactant | lithium hydroxide | 3 mmol, 430 mg | [OH-].[Li+]
solvent | tetrahydrofuran methanol water | 20 mL | O1CCCC1.CO.O
product | 4-(1,3-Oxazol-2-yl)benzoic acid | O1C(=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H7NO3
